US06482829B2
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-pyridin-3-yl-methyl-1,3,8-triaza-spiro[4.5]decan-4-one
(rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one (200 mg, 0.41 mmol) was dissolved in dimethyl formamide (10 mL) and sodium hydride (40 mg, 60% in mineral oil, 1 mmol) and 3-chloromethyl pyridinium chloride (82 mg, 0.5 mmol) were added and stirred at room temperature overnight. Water (30 mL) was added and the reaction mixture extacted with ethyl actetate. The organic phases were pooled, dried with MgSO4 and the solvent was evaporated. The residue was purified by chromatography on silica gel (ethyl acetate) to yield the desired product (219 mg, 93%), MS: m/e=577.0 (M+H+).

reactant | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | 0.41 mmol, 200 mg | FC(C=1C=C(C(=O)N2CCC3(C(NC(N3C3=CC=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | sodium hydride | 1 mmol, 40 mg | [H-].[Na+]
reactant | 3-chloromethyl pyridinium chloride | 0.5 mmol, 82 mg | [Cl-].ClCC=1C=[NH+]C=CC1
reactant | Water | 30 mL | O | H2O
reactant | dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | (rac)-8-(3,5-Bis-trifluoromethyl-benzoyl)-2-methyl-1-phenyl-3-pyridin-3-yl-methyl-1,3,8-triaza-spiro[4.5]decan-4-one | 219 mg, 93% | FC(C=1C=C(C(=O)N2CCC3(C(N(C(N3C3=CC=CC=C3)(C)C)C=3C=NC=CC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C29H26F6N4O2
